US06248740B1
6-(2-Hydroxyethoxy)[1,2,4]triazolo[1,5-b]pyridazine
60% Oily sodium hydride (510 mg) was suspended in N,N-dimethylformamide (70 ml), followed by addition of 2-(t-butyldiphenysilyoxy)ethanol (3.83 g). The mixture was stirred at room temperature for 1 hour, followed by addition of 6-chloro[1,2,4]triazolo[1,5-b]pyridazine (1.98 g). The mixture was stirred at room temperature for 5 hours and poured into ice-water, followed by extraction with ethylether. The extract was washed with an aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (40 ml), followed by addition of tetra-n-butylammoniumfluoride trihydrate (2.02 g). The mixture was stirred at room temperature for 10 minutes and concentrated under reduced pressure. The residue was subjected to silica-gel column chromatography and eluted with a mixture of ethyl acetate and hexane (1:1). Fractions containing the objective compound were collected and concentrated to yield the title compound (0.875 g).

reactant | sodium hydride | 510 mg | [H-].[Na+]
reactant | 2-(t-butyldiphenysilyoxy)ethanol | 3.83 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCO | C18H24O2Si
reactant | 6-chloro[1,2,4]triazolo[1,5-b]pyridazine | 1.98 g | ClC=1C=CC=2N(N1)N=CN2 | C5H3ClN4
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 6-(2-Hydroxyethoxy)[1,2,4]triazolo[1,5-b]pyridazine | 0.875 g | OCCOC=1C=CC=2N(N1)N=CN2 | C7H8N4O2
